US08278338B2
2-Dimethylaminomethyl-5-fluoro-indan-1-one hydrochloride
2 g of 5-fluoro-indan-1-one were dissolved in 10.5 ml of acetonitrile; 1.84 ml of bisdimethylaminoethane were added, and 0.95 ml of acetyl chloride was added dropwise at from 0 to 10° C. Stirring was carried out for 3 hours at 50° C. and then for 18 hours at room temperature. The resulting precipitate was filtered off, washed once with acetonitrile/isopropyl ether (v/v=1:1) and twice with acetone and dried in vacuo (yield 2.9 g).

reactant | 5-fluoro-indan-1-one | 2 g | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | bisdimethylaminoethane | 1.84 ml | CN(C)C(C)N(C)C | C6H16N2
reactant | acetyl chloride | 0.95 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 10.5 ml | C(C)#N | C2H3N
product | 2-Dimethylaminomethyl-5-fluoro-indan-1-one hydrochloride | Cl.CN(C)CC1C(C2=CC=C(C=C2C1)F)=O | InChI=1S/C12H14FNO.ClH/c1-14(2)7-9-5-8-6-10(13)3-4-11(8)12(9)15;/h3-4,6,9H,5,7H2,1-2H3;1H
